US09375000B2
Step 5: Synthesis of 1-[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methanamine
2-{[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoro-methyl)pyridin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione (0.31 g) and hydrazine hydrate (0.035 ml) were added to ethanol (5 ml), and heated at 80° C. for 5 hours. The solvent was distilled off under reduced pressure, and then t-butyl methyl ether was added. The undissolved matters were removed by filtration, and the target compound (0.24 g) was obtained after concentration under reduced pressure.

reactant | 2-{[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoro-methyl)pyridin-3-yl]methyl}-1H-isoindole-1,3(2H)-dione | 0.31 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CN1C(C2=CC=CC=C2C1=O)=O)C(F)(F)F)C(F)(F)F)(F)F | C28H17F12N3O2
reactant | hydrazine hydrate | 0.035 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methanamine | 0.24 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CN)C(F)(F)F)C(F)(F)F)(F)F | C20H15F12N3
